US07371747B2
To a solution of ethyl(5R/S,6R/S)-6-{[(4 fluorophenyl)sulfanyl]methyl}spiro[2.4]-heptane-5-carboxylate (66 mg, 0.22 mmol) in 0.3 mL methanol was added ethylene glycol dimethyl ether (1.0 mL) and 2 M aqueous solution of lithium hydroxide (1.0 mL). The reaction mixture was stirred at ambient temperature for 22 h and then poured into 30 mL water. The reaction mixture was washed with 30 mL ether and the aqueous layer was acidified with a 2 M aqueous solution of hydrochloric acid. The product was extracted into ethyl acetate and the combined ethyl acetate extracts were washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated to give (5R/S,6R/S)-6-{[(4-fluorophenyl)sulfanyl]-methyl}spiro[2.4]heptane-5-carboxylic acid as a colorless syrup.

reactant | ethyl(5R/S,6R/S)-6-{[(4 fluorophenyl)sulfanyl]methyl}spiro[2.4]-heptane-5-carboxylate | 0.22 mmol, 66 mg | FC1=CC=C(C=C1)SCC1C(CC2(CC2)C1)C(=O)OCC | C17H21FO2S
reactant | ethylene glycol dimethyl ether | 1.0 mL | COCCOC | C4H10O2
reactant | lithium hydroxide | 1.0 mL | [OH-].[Li+]
reactant | water | 30 mL | O | H2O
solvent | methanol | 0.3 mL | CO | CH4O
product | (5R/S,6R/S)-6-{[(4-fluorophenyl)sulfanyl]-methyl}spiro[2.4]heptane-5-carboxylic acid | FC1=CC=C(C=C1)SCC1C(CC2(CC2)C1)C(=O)O | C15H17FO2S
